US04613609
EXAMPLE 7 1-Heptyl-3-[4-(4-methoxyphenyl)butyl]-2-methylimidazolium bromide
A mixture of 2.50 g (0.0139 mole) of 1-heptyl-2-methyl-1H-imidazole and 3.37 g (0.0139 mole) of 1-(4-bromobutyl)-4-methoxybenzene is heated at 140° C. for about 2 hours. Follow the progress of the reaction by thin-layer chromatography on silica gel (methanol: 1M sodium chloride, 95:5). At the completion of the reaction, the cooled reaction product is triturated thoroughly with ether and on drying, provides the title compound.

reactant | 1-heptyl-2-methyl-1H-imidazole | 0.0139 mole, 2.50 g | C(CCCCCC)N1C(=NC=C1)C | C11H20N2
reactant | 1-(4-bromobutyl)-4-methoxybenzene | 0.0139 mole, 3.37 g | BrCCCCC1=CC=C(C=C1)OC | C11H15BrO
product | 1-Heptyl-3-[4-(4-methoxyphenyl)butyl]-2-methylimidazolium bromide | [Br-].C(CCCCCC)[N+]1=C(N(C=C1)CCCCC1=CC=C(C=C1)OC)C | InChI=1S/C22H35N2O.BrH/c1-4-5-6-7-9-16-23-18-19-24(20(23)2)17-10-8-11-21-12-14-22(25-3)15-13-21;/h12-15,18-19H,4-11,16-17H2,1-3H3;1H/q+1;/p-1
